US09120773B2
In a stream of argon, 0.34 g (1.62 mmol) of 6-bromoquinoline was dissolved in 7 mL of tetrahydrofuran, and then 1.03 mL of a solution of butyllithium 1.63 mmol in hexane was added dropwise at −78° C. The resultant mixture was stirred at −78° C. for 30 minutes, and then 0.41 g (1.63 mmol) of dichloro(tetramethylethylenediamine)zinc was added. The mixture was heated to room temperature and maintained at that temperature for 1 hour while being stirred. To the resultant mixture, 0.20 g (0.41 mmol) of 2-(3,5-dibromophenyl)-4,6-di-p-tolylpyrimidine, 19 mg (0.016 mmol) of tetrakis(triphenylphosphine)palladium and 3 mL of tetrahydrofuran were added, and the obtained suspension was heated under reflux for 17 hours. The reaction mixture was cooled to room temperature, and was then distilled under a reduced pressure to remove all volatile materials. The thus-deposited solid was collected by filtration. The thus-obtained crude product was purified by silica gel chromatography using a hexane/chloroform (1:1) mixed solvent as an eluent to give 0.16 g of the target 2-[3,5-di(6-quinolyl)phenyl-4,6-di-p-tolylpyrimidine as a white solid (yield: 65%).

reactant | 6-bromoquinoline | 1.62 mmol, 0.34 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
reactant | butyllithium | 1.63 mmol | C(CCC)[Li]
reactant | 2-(3,5-dibromophenyl)-4,6-di-p-tolylpyrimidine | 0.41 mmol, 0.20 g | BrC=1C=C(C=C(C1)Br)C1=NC(=CC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C24H18Br2N2
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | tetrakis(triphenylphosphine)palladium | 0.016 mmol, 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3,5-di(6-quinolyl)phenyl-4,6-di-p-tolylpyrimidine | yield: 65% | N1=CC=CC2=CC(=CC=C12)C=1C=C(C=C(C1)C=1C=C2C=CC=NC2=CC1)C1=NC(=CC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C42H30N4
